US07250535B2
The same operations as in Example 15 were carried out, except that the amount of copper(I) chloride added was changed to 0.75 g (corresponding to 15% by mol based on the di-tert-butylphosphinous chloride), and after the reaction and the treatment, the solvent and a low-boiling component were distilled off under reduced pressure. As a result, 5.9 g (purity: 93.8%) of tri-tert-butylphosphine was obtained as an oily substance. The yield was 54.4%.

reactant | di-tert-butylphosphinous chloride | C(C)(C)(C)P(C(C)(C)C)Cl | C8H18ClP
catalyst | copper(I) chloride | [Cu]Cl
product | tri-tert-butylphosphine | 5.9 g, yield was 54.4% | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
